US05495046
15 ml of a 20% (w/v) aqueous solution of potassium hydroxide was added to a solution of 1.53 g of the crude 4-[5-chloro-2-(2-phenylethoxy)phenyl]butyronitrile in 15 ml of ethanol and the resulting mixture was heated under reflux for 17 hours. After evaporation of the ethanol under reduced pressure, conc. hydrochloric acid was added dropwise to the reaction mixture until it became acidic. Then the reaction mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, 1.41 g of crude 4-[5-chloro-2-(2-phenylethoxy)phenyl]butyric acid was obtained. This compound was not purified any more but used in the subsequent reaction.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-[5-chloro-2-(2-phenylethoxy)phenyl]butyronitrile | 1.53 g | ClC=1C=CC(=C(C1)CCCC#N)OCCC1=CC=CC=C1 | C18H18ClNO
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[5-chloro-2-(2-phenylethoxy)phenyl]butyric acid | 1.41 g | ClC=1C=CC(=C(C1)CCCC(=O)O)OCCC1=CC=CC=C1 | C18H19ClO3
